US06057304
At a bath temperature of +4° C., under argon and with exclusion of moisture, 211 mg (0.9 mmol) of 3-(2-amino-4-nitrophenylamino)propionic acid is combined with 200 mg (2 mmol) of triethylamine in 20 ml of dry tetrahydrofuran. A solution of 270 mg (2 mmol) of oxalic acid ethyl ester chloride and 5 ml of dry tetrahydrofuran is added dropwise to the batch, and the latter is stirred for 2 hours at room temperature. Furthermore, 0.05 ml of triethylamine and 0.05 ml of oxalic acid ethyl ester chloride are added to the mixture and the latter stirred for one hour at room temperature. The batch is filtered and the filtrate concentrated and distributed in water and ethyl acetate. The organic phase is concentrated. The residue is taken up in 15 ml of ethanol and 15 ml of 1N hydrochloric acid and refluxed for 2 hours at a bath temperature of 110° C. The batch is concentrated, taken up in a small amount of water, and suctioned off, yielding 120 mg of 3-(6-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-1-yl)propionic acid, mp: 148-156° C. with decomposition.

reactant | 3-(2-amino-4-nitrophenylamino)propionic acid | 0.9 mmol, 211 mg | NC1=C(C=CC(=C1)[N+](=O)[O-])NCCC(=O)O | C9H11N3O4
reactant | triethylamine | 2 mmol, 200 mg | C(C)N(CC)CC | C6H15N
reactant | oxalic acid ethyl ester chloride | 2 mmol, 270 mg | [Cl-].C(C)OC(C(=O)O)=O
reactant | triethylamine | 0.05 ml | C(C)N(CC)CC | C6H15N
reactant | oxalic acid ethyl ester chloride | 0.05 ml | [Cl-].C(C)OC(C(=O)O)=O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-(6-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-1-yl)propionic acid | 120 mg | [N+](=O)([O-])C=1C=C2NC(C(N(C2=CC1)CCC(=O)O)=O)=O | C11H9N3O6
